US07888386B2
A mixture of (R)-3-((R)-hydroxyphenylmethyl)pyrrolidine-1-carboxylic acid t-butyl ester (10 g, 36.1 mmol), 2-chloro-3,6-difluorophenol (8.9 g, 54.1 mmol) and PPh3 (9.93 g, 37.8 mmol) in THF (20.5 mL, 252 mmol) was sonicated for several minutes. While sonicating, DIAD (7.5 mL, 37.8 mmol) was slowly added dropwise to the mixture over several minutes and sonicated further for 15 minutes. The mixture was concentrated and then triturated in excess hexanes for 16 hours. The PPh3 oxide precipitate was filtered off and the organic layer was concentrated to yield a yellow oil. The crude mixture was diluted in EtOAc (300 mL), washed with 1N NaOH (2×200 mL) and saturated aqueous NaCl (100 mL). The organic layer was dried with anhydrous MgSO4, filtered, and concentrated. The organic material was purified by silica gel chromatography (330 g column, 20-50% EtOAc in hexanes) to yield 14 g of (R)-3-[(S)-(2-chloro-3,6-difluorophenoxy)phenylmethyl]pyrrolidine-1-carboxylic acid t-butyl ester as a yellow oil which was used in the next step without further purification.

reactant | (R)-3-((R)-hydroxyphenylmethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 36.1 mmol, 10 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)[C@H](C1=CC=CC=C1)O | C16H23NO3
reactant | 2-chloro-3,6-difluorophenol | 54.1 mmol, 8.9 g | ClC1=C(C(=CC=C1F)F)O | C6H3ClF2O
reactant | PPh3 | 37.8 mmol, 9.93 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | THF | 252 mmol, 20.5 mL | C1CCOC1 | C4H8O
reactant | DIAD | 37.8 mmol, 7.5 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | (R)-3-[(S)-(2-chloro-3,6-difluorophenoxy)phenylmethyl]pyrrolidine-1-carboxylic acid t-butyl ester | 14 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)[C@@H](C1=CC=CC=C1)OC1=C(C(=CC=C1F)F)Cl | C22H24ClF2NO3
